US06265398B1
Preparation of 4-ethoxyphenylacetyl chloride
50 g (0.28 mol) of 4-ethoxyphenylacetic acid were treated with 50 ml of thionyl chloride and the mixture was stirred for 24 hours at room temperature. Excess thionyl chloride was removed in vacuo and the residue was distilled under a high vacuum. This gave 39 g (71% of theory) of an oil (boiling point 110° C./53.3 Pa).

reactant | 4-ethoxyphenylacetic acid | 0.28 mol, 50 g | C(C)OC1=CC=C(C=C1)CC(=O)O | C10H12O3
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-ethoxyphenylacetyl chloride | C(C)OC1=CC=C(C=C1)CC(=O)Cl | C10H11ClO2
